US07727988B2
5-(trifluoromethyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E13)
5-(trifluoromethyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (200 μl) to give the title compound as a white solid. The salt was further purified by crystallization with IPA/DIPE to give after filtration 26 mg of title compound.

reactant | 5-(trifluoromethyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | FC(C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)(F)F | C20H19F6N3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 200 μl | O1CCOCC1 | C4H8O2
product | 5-(trifluoromethyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)(F)F | InChI=1S/C20H19F6N3O2.ClH/c21-19(22,23)13-4-2-12(3-5-13)18-8-14(18)9-28(11-18)6-1-7-29-10-15(20(24,25)26)16(30)27-17(29)31;/h2-5,10,14H,1,6-9,11H2,(H,27,30,31);1H/t14-,18+;/m0./s1
